US04525298
11.2 g (0.2M) of prop-1-yn-3-ol, 1.0 g of hydroxylamine hydrochloride and 1.4 g of Cu2Cl2 have been added to a solution of 14.6 g of KOH (0.26M) in 80 ml of ethanol. The resulting mixture has been stirred vigorously for 10 minutes, then 87.9 g of 2-chloro-methyl-4,4-dimethyl-pent-1-ene of technical grade (0.4M of pure product) were added thereto. The addition was exothermic and the mixture was kept at 25°-32° during the whole operation (45 min), while the stirring was maintained overnight. The resulting reaction mixture was taken up with 30°-50° petrol ether, washed successively with water, 10% HCl and with water again until neutrality. After drying and evaporation, the obtained residue was distilled to give 16.6 g of 5-(2,2-dimethyl-propyl)-5-hexen-2-yn-1-ol (yield 45%).

reactant | prop-1-yn-3-ol | 0.2M, 11.2 g | C#CCO | C3H4O
reactant | hydroxylamine hydrochloride | 1.0 g | Cl.NO
reactant | KOH | 0.26M, 14.6 g | [OH-].[K+]
reactant | 2-chloro-methyl-4,4-dimethyl-pent-1-ene | 87.9 g | ClC(=CC)CC(C)(C)C | C8H15Cl
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 5-(2,2-dimethyl-propyl)-5-hexen-2-yn-1-ol | 16.6 g, yield 45% | CC(CC(CC#CCO)=C)(C)C | C11H18O
